US04406828
In a 3-liter flask provided with a thermometer and stirrer 200 g of phosphorus pentoxide are added while cooling to 500 g of 85% phosphoric acid and subsequently 150 g of 4-cyano-7-methyl-4-phenyl-oct-6-en-3-one are added at ca.50° C. The mixture is stirred at 105° C. until starting material is no longer present (gas chromatography/thin-layer). 1000 g of 48% hydrobromic acid and 500 g of glacial acetic acid are then added. After 12 hours, a further 200 g of 48% hydrobromic acid and 100 g of glacial acetic acid are added and the temperature is raised to 110° C. After a total reaction time of 30 hours, the mixture is cooled, ice is added and the mixture is extracted with ether, washed neutral with water, with 10% sodium hydroxide and again with water, dried over sodium sulphate and evaporated. Vacuum distillation gives 32 g of 1,1-dimethyl-4-propionyl-tetralin of boiling point 75° C./0.05 mmHg; nD20 =1.5263; yield 24%. Odour: see (3).

reactant | phosphoric acid | 500 g | P(O)(O)(O)=O | H3O4P
reactant | 4-cyano-7-methyl-4-phenyl-oct-6-en-3-one | 150 g | C(#N)C(C(CC)=O)(CC=C(C)C)C1=CC=CC=C1 | C16H19NO
reactant | hydrobromic acid | 1000 g | Br | BrH
reactant | hydrobromic acid | 200 g | Br | BrH
solvent | acetic acid | 100 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 g | C(C)(=O)O | C2H4O2
product | 1,1-dimethyl-4-propionyl-tetralin | 32 g, yield 24% | CC1(CCC(C2=CC=CC=C12)C(CC)=O)C | C15H20O
